US08084623B2
tert-Butyllithium (1.7 M in pentane, 2.5 mL, 4.25 mmol) was added at −78° C. to a solution of 4-bromo-1,2-dichlorobenzene (435 mg, 1.93 mmol) in THF (10 mL) under nitrogen atmosphere. The resulting solution was stirred at −78° C. for 15 minutes, and then a solution of 3-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 1.93 mmol) in THF (2 mL) was slowly added. The reaction mixture was stirred at −78° C. for 20 minutes and then warmed up to room temperature over a period of 30 minutes. The reaction was quenched by addition of saturated aqueous NH4Cl, then diluted with water and extracted with EtOAc. The combined organic extracts were dried over MgSO4, filtered and evaporated under reduced pressure to give an oil that was purified by flash chromatography (10% to 30% of EtOAc in hexane) to give 143 mg (22% yield) of 3-(3,4-dichloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a colorless oil.

reactant | tert-Butyllithium | 4.25 mmol, 1.7 M, 2.5 mL | C(C)(C)(C)[Li]
reactant | 4-bromo-1,2-dichlorobenzene | 1.93 mmol, 435 mg | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | 3-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.93 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C(N(C)OC)=O | C12H22N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(3,4-dichloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 143 mg, 22% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C(C1=CC(=C(C=C1)Cl)Cl)=O | C16H19Cl2NO3
